US07834063B2
N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-(cyclopropylmethyl)-N1-(4-fluorophenyl)alaninamide
Synthesized as described for Example 91C using N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(cyclopropylmethyl)alanine and 4-fluoroaniline: 1H NMR (400 MHz, CDCl3) δ 8.21 (s, 1H), 7.50 (d, J=8.7 Hz, 1H), 7.42 (m, 2H), 7.14 (d, J=2.5 Hz, 1H), 7.00-6.91 (m, 3H), 4.47 (q, J=7.0 Hz, 1H), 3.36 (m, 2H), 1.56 (d, J=7.1 Hz, 3H), 1.10 (m, 1H), 0.69 (m, 2H), 0.35 (m, 2H).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(cyclopropylmethyl)alanine | C(#N)C1=C(C=C(C=C1)N([C@@H](C)C(=O)O)CC1CC1)C(F)(F)F | C15H15F3N2O2
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-(cyclopropylmethyl)-N1-(4-fluorophenyl)alaninamide | C(#N)C1=C(C=C(C=C1)N([C@@H](C)C(=O)NC1=CC=C(C=C1)F)CC1CC1)C(F)(F)F | C21H19F4N3O
